US06331539B1
A solution of benzoyl chloride (5.3 g, 37.7 mmol) in dichloromethane (100 mL) was slowly added to a solution of tert-butyl N-{4-[(3-aminoquinolin-4-yl) amino]butyl}carbamate (12.5 g, 37.7 mmol) in dichloromethane (250 mL) at ambient temperature. The reaction mixture was maintained at ambient temperature overnight. The resulting precipitate was isolated by filtration and dried to provide 11.0 g of tert-butyl N-(4-{[3-(benzoylamino)quinolin-4-yl]amino}butyl)carbamate hydrochloride as a white solid.

reactant | benzoyl chloride | 37.7 mmol, 5.3 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | tert-butyl N-{4-[(3-aminoquinolin-4-yl) amino]butyl}carbamate | 37.7 mmol, 12.5 g | NC=1C=NC2=CC=CC=C2C1NCCCCNC(OC(C)(C)C)=O | C18H26N4O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | tert-butyl N-(4-{[3-(benzoylamino)quinolin-4-yl]amino}butyl)carbamate hydrochloride | 11.0 g | Cl.C(C1=CC=CC=C1)(=O)NC=1C=NC2=CC=CC=C2C1NCCCCNC(OC(C)(C)C)=O | InChI=1S/C25H30N4O3.ClH/c1-25(2,3)32-24(31)27-16-10-9-15-26-22-19-13-7-8-14-20(19)28-17-21(22)29-23(30)18-11-5-4-6-12-18;/h4-8,11-14,17H,9-10,15-16H2,1-3H3,(H,26,28)(H,27,31)(H,29,30);1H
